US04271164
A mixture of 2.1 g of 6-(2,6-dichlorophenyl)-2-methylpyrido[2,3-d]pyrimidin-7-amine in 10 ml of dimethylformamide dimethyl acetal is warmed on a steam bath. Solution occurs followed by an exothermic reaction and precipitation of a solid. This mixture is stirred at room temperature for 16 hours and then diluted with ether and filtered to obtain the crude product as a yellow solid. Recrystallization of this from acetonitrile gives pure N'-[6-(2,6-dichlorophenyl)-2-methylpyrido[2,3-d]pyrimidin-7-yl]-N,N-dimethylmethanimidamide, mp 236°-238° C.

reactant | 6-(2,6-dichlorophenyl)-2-methylpyrido[2,3-d]pyrimidin-7-amine | 2.1 g | ClC1=C(C(=CC=C1)Cl)C1=CC2=C(N=C(N=C2)C)N=C1N | C14H10Cl2N4
reactant | dimethylformamide dimethyl acetal | 10 ml | COC(N(C)C)OC | C5H13NO2
solvent | ether | CCOCC | C4H10O
product | N'-[6-(2,6-dichlorophenyl)-2-methylpyrido[2,3-d]pyrimidin-7-yl]-N,N-dimethylmethanimidamide | ClC1=C(C(=CC=C1)Cl)C1=CC2=C(N=C(N=C2)C)N=C1N=CN(C)C | C17H15Cl2N5
